US06753327B1
a) N-(4-Vinylphenyl)methylmorpholine
20 ml (0.14 mol) of 4-vinylbenzylchloride and 25 ml (0.28 mol) of morpholine were refluxed in 150 ml of methanol for 3 h. The mixture was then concentrated in vacuo, and the resulting residue was partitioned between 1M hydrochloric acid and water [sic]. The acidic phase was washed with ether and then made alkaline with 2M sodium hydroxide solution. This aqueous phase was extracted with ether. This organic phase was dried and concentrated in vacuo, resulting in 24.6 g of the product.

reactant | 4-vinylbenzylchloride | 0.14 mol, 20 ml | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | morpholine | 0.28 mol, 25 ml | N1CCOCC1 | C4H9NO
solvent | methanol | 150 ml | CO | CH4O
product | N-(4-Vinylphenyl)methylmorpholine | 24.6 g | C(=C)C1=CC=C(C=C1)CN1CCOCC1 | C13H17NO
